2159-11-03 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
    Received 3 liters of NS since admission due to low bp and low uop
   (10-20 cc/hr)
   RSBI on [**5-15**] was 105..to high so did not do sbt. Placed back on [**10-15**]
   Allergies:
   Statins-Hmg-Coa Reductase Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2159-11-2**] 07:47 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2159-11-2**] 03:50 PM
   Pantoprazole (Protonix) - [**2159-11-2**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2159-11-2**] 11:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-11-3**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 105 (87 - 105) bpm
   BP: 113/67(77) {96/54(64) - 117/71(81)} mmHg
   RR: 29 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59 kg (admission): 59 kg
             Total In:
                                                                  1,746 mL
                                                                  1,153 mL
   PO:
             TF:
   IVF:
                                                                  1,746 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    110 mL
   Urine:
                                                                    120 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                  1,043 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 359 (359 - 401) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.40/38/62/23/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 155
   Physical Examination
   GENERAL: Sedated lady
   HEENT: ET tube in place, normocephalic, atraumatic. MMM. Neck Supple
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. Difficult to
   assess murmurs due to coarse breath sounds
   LUNGS: Coarse breathsounds diffusely
   ABDOMEN: Soft, nondistended.
   EXTREMITIES: No edema.
   Labs / Radiology
   278 K/uL
   13.2 g/dL
   152 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   17 mg/dL
   105 mEq/L
   138 mEq/L
   38.9 %
   12.2 K/uL
        [image002.jpg]
                            [**2159-11-2**]  03:49 PM
                            [**2159-11-2**]  05:37 PM
                            [**2159-11-2**]  06:36 PM
                            [**2159-11-2**]  08:09 PM
                            [**2159-11-3**]  03:12 AM
   WBC
   12.1
   12.2
   Hct
   38.6
   38.9
   Plt
   331
   278
   Cr
   0.7
   0.8
   TCO2
   28
   28
   24
   Glucose
   164
   152
   Other labs: PT / PTT / INR:13.7/26.2/1.2, Lactic Acid:1.8 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   85 year-old lady with Severe COPD (home oxygen 4L), CAD, obstructive
   cardiomyopathy presents with closed loop small bowel obstruction s/p
   exploratory laproscopy (nearly 1 foot of bowel removed), lysis of
   adhesions and small bowel resection.
   .
   # Closed loop small bowel obstruction: s/p exploratory laproscopy,
   lysis of adhesions and small bowel resection.
   - appreciate surgery recommendations
   - Keflex
   - appreciate pain service recs esp regarding TAC block; will not
   administer at this time; will use fentanyl while intubated and PCA when
   extubated if pt. can tolerate per surgery
   .
   # S/p Intubation/COPD: On home oxygen.
   - sedation/pain control with low dose propofol and fentanyl boluses
   - SBT in AM
   - CXR
   - continue albuterol/atrovent
   .
   # Low UOP: likely secondary to need for ivfs and component of pre-renal
   secondary to mild hypotension
   - IVFs
   - Monitor uop
   .TITLE:
   # Obstructive Cardiomyopathy/CAD:
   - TTE given ? WMA on intraop TEE
   - strictly monitor I and O, daily weight
   .
   # h/o DVT:  Currently not on coumadin.
   - sc heparin for prophylaxis
   .
   # Hypothyroidism:
   - continue home levothyroxine
   ICU Care
   Nutrition: NPO
   Glycemic Control:  None
   Lines:
   Arterial Line - [**2159-11-2**] 03:00 PM
   20 Gauge - [**2159-11-2**] 03:00 PM
   22 Gauge - [**2159-11-2**] 03:00 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Daughter [**First Name4 (NamePattern1) 4198**] [**Last Name (NamePattern1) 9562**] [**Telephone/Fax (1) 9563**], c [**Telephone/Fax (1) 9572**], son [**Name (NI) **] [**Telephone/Fax (1) 9565**], c [**Telephone/Fax (1) 9566**]
   Code status: DNR/I reversed for surgery, and will be full code pending
   surgical clearance
   Disposition: ICU for now pending extubation
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2159-11-2**] 03:00 PM
   placed in OR
   Allergies:
   Statins-Hmg-Coa Reductase Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2159-11-2**] 07:47 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2159-11-2**] 03:50 PM
   Pantoprazole (Protonix) - [**2159-11-2**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2159-11-2**] 11:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-11-3**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 105 (87 - 105) bpm
   BP: 113/67(77) {96/54(64) - 117/71(81)} mmHg
   RR: 29 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59 kg (admission): 59 kg
             Total In:
                                                                  1,746 mL
                                                                  1,659 mL
   PO:
             TF:
   IVF:
                                                                  1,746 mL
                                                                  1,659 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    110 mL
   Urine:
                                                                    120 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                  1,549 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 359 (359 - 401) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.40/38/62/23/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 155
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   278 K/uL
   13.2 g/dL
   152 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   17 mg/dL
   105 mEq/L
   138 mEq/L
   38.9 %
   12.2 K/uL
        [image002.jpg]
                            [**2159-11-2**]  03:49 PM
                            [**2159-11-2**]  05:37 PM
                            [**2159-11-2**]  06:36 PM
                            [**2159-11-2**]  08:09 PM
                            [**2159-11-3**]  03:12 AM
   WBC
   12.1
   12.2
   Hct
   38.6
   38.9
   Plt
   331
   278
   Cr
   0.7
   0.8
   TCO2
   28
   28
   24
   Glucose
   164
   152
   Other labs: PT / PTT / INR:13.7/26.2/1.2, Lactic Acid:1.8 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
 .H/O HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-11-2**] 03:00 PM
   20 Gauge - [**2159-11-2**] 03:00 PM
   22 Gauge - [**2159-11-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2159-11-04 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient extubated and doing well, down to between 2-4L NC (on 4LNC at
   home)
   - put out huge amount to some lasix with improved O2 sats, better heart
   rate and less ectopy, gave some back when her diuresis increased
   - NGT in place to suction
   - Morphine PCA for pain/SOB; patient on hospice at home, takes morphine
   daily
   Allergies:
   Statins-Hmg-Coa Reductase Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2159-11-3**] 07:53 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2159-11-3**] 03:51 PM
   Heparin Sodium (Prophylaxis) - [**2159-11-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-11-4**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 90 (85 - 106) bpm
   BP: 129/76(89) {106/50(64) - 143/101(107)} mmHg
   RR: 20 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59 kg (admission): 59 kg
             Total In:
                                                                  2,336 mL
                                                                    744 mL
   PO:
             TF:
   IVF:
                                                                  2,336 mL
                                                                    744 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                  2,240 mL
   Urine:
                                                                  1,750 mL
                                                                  2,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    586 mL
                                                                 -1,496 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 420 (420 - 420) mL
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.43/35/128/31/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 320
   Physical Examination
   GENERAL: Elderly lady in NAD, breathing comfortably on NC
   HEENT: normocephalic, atraumatic. MMM. Neck Supple
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. Difficult to
   assess murmurs due to coarse breath sounds
   LUNGS: Coarse breathsounds diffusely
   ABDOMEN: Soft, nondistended.
   EXTREMITIES: No edema.
   Labs / Radiology
   287 K/uL
   12.1 g/dL
   132 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.6 mEq/L
   16 mg/dL
   102 mEq/L
   140 mEq/L
   35.5 %
   9.9 K/uL
        [image002.jpg]
                            [**2159-11-2**]  03:49 PM
                            [**2159-11-2**]  05:37 PM
                            [**2159-11-2**]  06:36 PM
                            [**2159-11-2**]  08:09 PM
                            [**2159-11-3**]  03:12 AM
                            [**2159-11-3**]  08:45 AM
                            [**2159-11-4**]  04:04 AM
   WBC
   12.1
   12.2
   9.9
   Hct
   38.6
   38.9
   35.5
   Plt
   [**Telephone/Fax (3) 9584**]
   Cr
   0.7
   0.8
   0.8
   TCO2
   28
   28
   24
   24
   Glucose
   164
   152
   132
   Other labs: PT / PTT / INR:13.7/26.2/1.2, Lactic Acid:1.8 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   85 year-old lady with Severe COPD (home oxygen 4L), CAD, obstructive
   cardiomyopathy presents with closed loop small bowel obstruction s/p
   exploratory laproscopy (nearly 1 foot of bowel removed), lysis of
   adhesions and small bowel resection.
   .
   # Closed loop small bowel obstruction: s/p exploratory laproscopy,
   lysis of adhesions and small bowel resection.
   - appreciate surgery recommendations
   - Completed 24h of post-op cefazolin
   - NPO with NGT in place
   - Pain control with morphine PCA, which has been working well for her
   pain and SOB
   - Surgery requesting periop beta [**Last Name (LF) 770**], [**First Name3 (LF) 124**] f/u about po vs. IV
   dosing, will likely need IV given bowel rest
   .
   # S/P Intubation/COPD: On home oxygen.
   - Successfully extubated and weaned down to her home level of O2 (2-4L
   NC)
   - Keeping patient net negative helps her overall respiratory status
   - Patient on morphine PCA for pain/SOB, has been on morphine as an
   outpatient to help with SOB
   - continue albuterol/atrovent
   .
   # Low UOP: likely secondary to need for ivfs and component of pre-renal
   secondary to mild hypotension and s/p surgery with fluid shifts.  UOP
   remained low in the setting of IVF, was given a lasix trial yesterday
   afternoon and responded with brisk UOP. Since that time UOP has
   remained elevated, will continue to monitor and if she needs more lasix
   would give only 20mg given extremely brisk response to 40mg IV
   # Obstructive Cardiomyopathy/CAD:
   - TTE given ? WMA on intraop TEE
   - try to run negative for the day as it results in improved respiratory
   status and likely improved cardiac function as well, goal is even to
   -500cc
   .
   # h/o DVT:  Currently not on coumadin.
   - sc heparin for prophylaxis
   .
   # Hypothyroidism:
   - continue home levothyroxine
   ICU Care
   Nutrition: NPO for now, bowel rest as per surgery
   Glycemic Control:  None
   Lines:
   Arterial Line - [**2159-11-2**] 03:00 PM-will d/c today
   20 Gauge - [**2159-11-2**] 03:00 PM
   22 Gauge - [**2159-11-2**] 03:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code-was previously DNR/DNI but reversed for her
   surgery
   Disposition: Likely call out to surgery later this afternoon as long as
   she remains stable